Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ Coronary artery bypass grafts x4 ___, 
___, LRAD-PDA) ; Endovascular radial artery harvest

 
History of Present Illness:
Mr. ___ is a ___ man with past medical history of 
diabetes mellitus type 2, hyperlipidemia, hypertension, and 
obesity. He who presented to ___ with a three day 
history of intermittent substernal exertional chest discomfort 
radiating to his left arm. He was previously admitted to 
___ in ___ with chest pain, he underwent nuclear exercise 
stress test which showed no evidence of inducible ischemia, 
preserved LV ejection fraction. He noted occasional burning in 
his chest that he attributed to his GERD. He admits to unhealthy 
lifestyle including heavy smoking and unhealthy diet. Over the 
past several days he has been having intermittent substernal 
chest burning radiating to the left arm, it is clearly induced 
with exertion. The discomfort would last for about 5 minutes and 
resolve with rest. During these episodes he would also slightly 
feel short of breath and break into cold sweats. He denied back 
pain, neck pain, jaw pain, nausea, vomiting, abdominal pain, 
denies any problems with bowel movements or urination. He was 
scheduled to see a cardiologist regarding his symptoms but was 
advised by his PCP to come to the emergency room for evaluation 
instead. He underwent a cardiac catheterization which revealed 
multivessel coronary artery disease. He was transferred to ___ 
for surgical revascularization.
 
Past Medical History:
Diabetes Mellitus Type II
Gastroesophageal Reflux Disease
Hyperlipidemia
Hypertension
Obesity 
Surgical History:
3 (L) knee surgeries early ___, 
2 right knee surgeries in ~___'
Right biceps re-attachment
 
Social History:
___
Family History:
Mother and her brothers had cardiac stents in their ___
 
Physical Exam:
T: 97.9.  HR: 75.  BP: 132/84.  RR: 18.  O2 Sat: 98% RA

General: A&O x3, NAD
Skin: Dry [x] intact [x]
HEENT: PERRLA [] EOMI [x]
Neck:  Supple [x] Full ROM [x]
Chest: Lungs clear bilaterally [x]
Heart: RRR [x]  Irregular []  Murmur [] 
Abdomen: Soft [x] non-distended [x] non-tender [x] bowel sounds 
+ [x]
Extremities: Warm [x], well-perfused [x]  Edema none
Varicosities: None [x]
Neuro: Grossly intact [x]
Pulses:
DP           Right: 2+  Left:2+
Radial       Right: 2+  Left:2+

Carotid Bruit: none appreciated

Discharge Exam:
General: NAD [x]  
Neurological: A/O x3 [x] non-focal [x] 
HEENT:  PEERL [x] 
Cardiovascular: RRR [x]  Irregular []  Murmur [] Rub [] 
Respiratory: CTA [x]  No resp distress [x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x]  No Edema  
Left Upper extremity    Warm [x]  No Edema 
Right Lower extremity   Warm [x]  No Edema 
Left Lower extremity    Warm [x]  No Edema 
Pulses:
DP             Right: +      Left: +
___             Right: +      Left: +
Radial         Right: +      Left: +
Skin/Wounds: Dry [x] intact [x]
Sternal: scant serosang drainage mid/lower pole. No erythema.
                 Sternum stable [x] Prevena []
Upper extremity: Right [] Left [x]  CDI [x]
 
Pertinent Results:
Cardiac Catheterization ___
LMCA: Angiographically unremarkable.
LAD: Proximal 90% stenosis; 90% mid stenosis. ___ Diag 90% 
stenosis. The lesion was diffuse. Diagonal is small caliber with 
severe diffuse disease.
LCx: Mid 60% stenosis. ___ LPL ostial 90% stenosis. ___ LPL 90% 
stenosis. The lesion was diffuse.
RCA: Mid 99% stenosis. Distal RCA 100% stenosis.
Ramus: Ostial 90% stenosis.
Cardiac Collaterals
- Moderate collateral flow from the ___ LPL to the R PDA.
.
Transthoracic Echocardiogram ___
The left atrial volume index is normal. There is mild symmetric 
left ventricular hypertrophy with a normal cavity size. There is 
mild regional left ventricular systolic dysfunction with mild 
basal inferior / inferoseptal hypokinesis (RCA territory; see 
schematic) and preserved/normal contractility of the remaining 
segments. The visually estimated left ventricular ejection 
fraction is 50%. There is no resting left ventricular outflow 
tract gradient. Normal right ventricular cavity size with normal 
free wall motion. The aortic sinus diameter is normal for gender 
with normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve leaflets (3) are mildly 
thickened. There is no aortic valve stenosis. There is no aortic 
regurgitation. The mitral valve leaflets are mildly thickened 
with no mitral valve prolapse. There is trivial mitral 
regurgitation. The pulmonic valve leaflets are not well seen. 
The tricuspid valve leaflets appear structurally normal. There 
is physiologic tricuspid regurgitation. The pulmonary artery 
systolic pressure could not be estimated. There is no 
pericardial effusion.

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
mild regional systolic dysfunction most consistent with coronary 
artery disease. No clinically-significant valvular disease seen.
.

 
Brief Hospital Course:
He was admitted on ___ and underwent routine preoperative 
testing and evaluation. He remained stable and was taken to the 
operating room on ___. He underwent coronary artery bypass 
grafting to four vessels. Please see operative note for full 
details. He tolerated the procedure well and was transferred to 
the CVICU in stable condition for recovery and invasive 
monitoring. 
  
He weaned from sedation, awoke neurologically intact and was 
extubated on POD 1. He was weaned from vasopressor support. Beta 
blocker was initiated and he was diuresed toward his 
preoperative weight. He remained hemodynamically stable and was 
transferred to the telemetry floor for further recovery. ___ 
was consulted for Diabetes management. He was evaluated by the 
physical therapy service for assistance with strength and 
mobility. Scant sternal drainage was noted without erythema, 
wound was well approximated and his sternum was stable. By the 
time of discharge on post-operative day five he was ambulating 
freely, his wound was healing, and his pain was controlled with 
oral analgesics. He was discharged to home in good condition 
with appropriate follow up instructions.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 10 mg PO DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO BID
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H  
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg one tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*2 
3.  Furosemide 20 mg PO DAILY Duration: 3 Days 
RX *furosemide 20 mg one tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*2 
4.  GuaiFENesin ER 1200 mg PO Q12H  
5.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
Duration: 6 Months 
RX *isosorbide mononitrate 30 mg one tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*2 
6.  Metoprolol Succinate XL 50 mg PO DAILY 
RX *metoprolol succinate 50 mg one tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*2 
7.  OneTouch Ultra Blue Test Strip (blood sugar diagnostic)    
miscellaneous BID 
RX *blood sugar diagnostic [OneTouch Ultra Blue Test Strip]  
check blood sugar two times daily  Disp #*100 Strip Refills:*2 
8.  OneTouch Ultra Control (blood glucose control, normal)    
miscellaneous ONCE 
one glucometer 
RX *blood glucose control, normal [OneTouch Ultra Control]  
check blood sugar twice daily  Disp #*1 Each Refills:*0 
9.  OneTouch UltraSoft Lancets (lancets)    miscellaneous BID 
RX *lancets [OneTouch UltraSoft Lancets]  check blood sugar 
twice daily  Disp #*2 Each Refills:*2 
10.  Polyethylene Glycol 17 g PO DAILY  
11.  Ranitidine 150 mg PO BID 
RX *ranitidine HCl 150 mg one tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
12.  Senna 17.2 mg PO DAILY  
13.  TraMADol ___ mg PO Q4H:PRN Pain - Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *tramadol 50 mg ___ tablet(s) by mouth every ___ hours Disp 
#*40 Tablet Refills:*0 
14.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg one tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
15.  Aspirin 81 mg PO DAILY  
16.  MetFORMIN (Glucophage) 1000 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
Coronary artery disease s/p coronary artery bypass graft x 4
Past medical history:
Type 2 diabetes mellitus
Hypertension
Hyperlipidemia
GERD
Obesity
 
Discharge Condition:
Alert and oriented x3, non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - no erythema, scant sternal drainage but well 
approximated. Sternum stable.
No Edema

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
 Please - NO lotion, cream, powder or ointment to incisions
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 No driving for approximately one month and while taking 
narcotics

Clearance to drive will be discussed at follow up appointment 
with surgeon
 No lifting more than 10 pounds for 10 weeks

Encourage full shoulder range of motion, unless otherwise 
specified
 **Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___